US08445509B2
Production of ethyl 2-(2-methylphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate
In the same manner as in Reference Example 63 and using (2-methylphenyl)hydrazine•hydrochloride (5 g, 32 mmol), water (100 mL), potassium carbonate (9.7 g, 70 mmol) and diethyl ethoxymethylenemalonate (8.3 g, 38 mmol) as starting materials, the title compound (6.8 g, 87%) was obtained as a brown solid.

reactant | (2-methylphenyl)hydrazine•hydrochloride | 32 mmol, 5 g | CC1=C(C=CC=C1)NN.Cl
reactant | potassium carbonate | 70 mmol, 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ethoxymethylenemalonate | 38 mmol, 8.3 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
solvent | water | 100 mL | O | H2O
product | ethyl 2-(2-methylphenyl)-3-oxo-2,3-dihydro-1H-pyrazole-4-carboxylate | 6.8 g, 87% | CC1=C(C=CC=C1)N1NC=C(C1=O)C(=O)OCC | C13H14N2O3
